US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid Phenylamide
4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-phenyl-1-piperidinecarboxamide (0.45 g, 1.27 mmol) was reacted with tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane (0.512 g, 1.27 mmol) according to Procedure G (eluant: 12:3:1 dichloromethane-chloroform-methanol) to give the title compound (0.25 g, 0.33 mmol).

reactant | 4-{[4-(2-Aminoethyl)phenyl]sulfanyl}-N-phenyl-1-piperidinecarboxamide | 1.27 mmol, 0.45 g | NCCC1=CC=C(C=C1)SC1CCN(CC1)C(=O)NC1=CC=CC=C1 | C20H25N3OS
reactant | tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane | 1.27 mmol, 0.512 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OC[C@H]1OC1 | C25H28O3Si
solvent | dichloromethane chloroform methanol | ClCCl.C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid Phenylamide | 0.33 mmol, 0.25 g | C1(=CC=CC=C1)NC(=O)N1CCC(CC1)SC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H35N3O4S
